US06787653B2
To a solution of 25.0 g (89.3 mmol) of 4-hydroxy-1-iodo-3,5-dimethoxybenzene in dimethylformamide (125 mL) were added 26.7 mL (267 mmol) of isopropyl iodide and 4.7 g (108 mmol) of a 55 wt. % sodium hydride dispersion in mineral oil. The reaction mixture was stirred at 50° C. for 2.5 hours. With ice cooling, water (125 mL) was added and the mixture was extracted with toluene-hexane (2:1). The organic layers were combined, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel to yield crude crystals. The crude crystals were recrystallized from methanol, whereby 24.0 g of 1-iodo-4-isopropoxy-3,5-dimethoxybenzene was obtained as a colorless crystalline powder (mp: 56.0 to 57.0° C., yield: 83%).

reactant | 4-hydroxy-1-iodo-3,5-dimethoxybenzene | 89.3 mmol, 25.0 g | OC1=C(C=C(C=C1OC)I)OC | C8H9IO3
reactant | isopropyl iodide | 267 mmol, 26.7 mL | C(C)(C)I | C3H7I
reactant | sodium hydride | [H-].[Na+]
reactant | water | 125 mL | O | H2O
solvent | dimethylformamide | 125 mL | CN(C=O)C | C3H7NO
product | 1-iodo-4-isopropoxy-3,5-dimethoxybenzene | 24.0 g | IC1=CC(=C(C(=C1)OC)OC(C)C)OC | C11H15IO3
